US08669266B2
(v) 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 1 g of 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 12 ml of DMF, 392 mg of EDC, 376 mg of pentafluorophenol and 392 mg of NEM was added and the reaction mixture was warmed to 50° C. for 2 h. Then, after cooling to RT, 334 mg of (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide hydrochloride and 201 mg of NEM in 5 ml of DMF was added. After 1 h the reaction mixture was diluted with water and extracted with DCM (3×50 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was pure enough for the next reaction step. Yield: 1.2 g.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C)=O | C29H38N4O9
reactant | EDC | 392 mg
reactant | pentafluorophenol | 376 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclopropylamide hydrochloride | 334 mg | Cl.C1(CC1)NC(=O)[C@H]1NCCC1
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CC1)=O)C)=O | C37H50N6O9
